US04696949
(b) 4-bromo-1,2-diphenyl-1(4-methoxyphenyl)-1-butene (Z)
33.0 g of (Z)-1,2-diphenyl-1-(4-methoxyphenyl)-1-buten-4-ol are dissolved in 500 ml of dry acetonitrile. Then 39.3 g of triphenylphosphine and 49.8 g of carbon tetrabromide are added while stirring. The stirring is continued for 1 h at room temperature. The solvent is evaporated and the evaporation residue is dissolved in hot petrol ether. The insoluble material is removed by filtration. The mother liquor is evaporated, and the evaporation residue is recrystallized from methanol. The yield of the product is 26.7 g (68%) having m.p. 116°-8° C.

reactant | (Z)-1,2-diphenyl-1-(4-methoxyphenyl)-1-buten-4-ol | 33.0 g | C1(=CC=CC=C1)/C(=C(\CCO)/C1=CC=CC=C1)/C1=CC=C(C=C1)OC | C23H22O2
reactant | triphenylphosphine | 39.3 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrabromide | 49.8 g | C(Br)(Br)(Br)Br | CBr4
solvent | acetonitrile | 500 ml | C(C)#N | C2H3N
product | 4-bromo-1,2-diphenyl-1(4-methoxyphenyl)-1-butene | BrCCC(=C(C1=CC=C(C=C1)OC)C1=CC=CC=C1)C1=CC=CC=C1 | C23H21BrO
